US07141684B2
4,4*-Sulfonyldiphenol (25 gm, 0.10 mol) was dissolved in methanol (200 ml) and sodium hydroxide (8.0 gm, 0.20 mol) was added and stirred until the solution was homogeneous. Allyl chloride (20 mL 0.25 mol) was added and the solution heated and stirred at ˜45° C. until the reaction was complete. The reaction was poured onto water and extracted with ethyl acetate. The organic extract was washed with water (2×), dried, recrystallized from aqueous acetone to give 4-alloxyphenyl sulfone, mp 140–142° C. MS m/z 330 (M+ calcd for C18H18O4S=330). H NMR (300 MHz,CDCl3) d 4.56 (d, 4, OCH2), 5.27–5.44 (m, 4, vinyl), 5.93–6.08 (m, 2, CH vinyl), 6.95 (d, 4, aromatic), 7.82 (d, 4, aromatic). 4-Allylphenyl sulfone (19.5 gm, 0.59 mol) was refluxed in o-dichlorobenzene for 60 hrs (weekend) to give after solvent evaporation and recrystallization from hexane -1,2-dichloromethane gave 3-allyl-4-hydroxyphenyl sulfone, mp 154–156 C. MS m/z 330 (M+ calcd for C18H18O4S=330). H NMR (300 MHz, DMSO-d 6) d 3.30 (d, 4, CH2) 5.20 (d, 4, vinyl), 5.91–6.00 (m, 2, vinyl), 6.85 (d, 1, aromatic), 7.57 (d, 2, aromatic). 3-Allyl-4-hydroxyphenyl sulfone (4.5 gm, 0.0134 mol) was dissolved in dimethylacetamide (25 ml) and powdered sodium hydroxide added to generate the diphenate salt. When the solution was homogeneous, methyl iodide (3.87 gm, 0.028 mol) was added and the reaction mixture heated at ˜40° C. for 40 hr. The reaction was poured onto hexane. The hexane solution was washed with water (3×), dried over MgSO4 and the solvent evaporated to give 4-methoxy-3-allylphenyl sulfone mp 82–85 C. MS m/z 358 (M+ calcd for C20H22O4S=358). H NMR (300 MHz, CDCl3) d 3.35 (d, 2, aromatic), 3.85 (s, 3, CH3), 4.85–5.10 (m, 4, CH2 vinyl), 5.85–6.10 (m, 2, CH vinyl), 6.88 (d, 2, aromatic), 7.65–7.80 (m, 3, aromatic). 4-Methoxy-3-allylphenyl sulfone (2.0 g, 0.0056 mol) was oxidized as described in Example 1 to give 4-methoxy-3-(2,3-epoxypropyl)phenyl sulfone, mp 105–108° C. MS m/z 390 (M+ calcd for C20H22O6S=390). H NMR (300 MHz, CDCl3) d 2.53 (t, 2, CH2), 2.76 (t, 2, CH2), 2.80–2.97 (m, 4, CH2), 3.85 (s, 6, OCH3), 6.92 (d, 2, aromatic), 7.72–7.85 (m, 2, aromatic).

reactant | 3-Allyl-4-hydroxyphenyl sulfone | 0.0134 mol, 4.5 gm | C(C=C)C=1C=C(C=CC1O)S(=O)(=O)C1=CC(=C(C=C1)O)CC=C | C18H18O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | diphenate | C=1(C(C(=O)[O-])=CC=CC1)C=1C(C(=O)[O-])=CC=CC1
reactant | methyl iodide | 0.028 mol, 3.87 gm | CI | CH3I
reactant | dimethylacetamide | 25 ml | CC(=O)N(C)C | C4H9NO
product | 4-methoxy-3-allylphenyl sulfone | COC1=C(C=C(C=C1)S(=O)(=O)C1=CC(=C(C=C1)OC)CC=C)CC=C | C20H22O4S
